US04266056
A mixture of 5-cyano-1-(2,6-dimethylphenyl)uracil (0.01 mol) and 50 ml of NaOH (2.5 N) is heated for 2 hours at about 90°. After cooling, a small amount of dilute HCl is added to precipitate product. The mixture is filtered and the collected precipitate washed with water to yield 5-carbamoyl-1-(2,6-dimethylphenyl)uracil.

reactant | 5-cyano-1-(2,6-dimethylphenyl)uracil | 0.01 mol | C(#N)C=1C(NC(N(C1)C1=C(C=CC=C1C)C)=O)=O | C13H11N3O2
reactant | HCl | Cl | ClH
reactant | NaOH | 2.5 N, 50 ml | [OH-].[Na+]
product | 5-carbamoyl-1-(2,6-dimethylphenyl)uracil | C(N)(=O)C=1C(NC(N(C1)C1=C(C=CC=C1C)C)=O)=O | C13H13N3O3
